### PR TITLE
switching long suffixes to short suffixes

### LINKED ISSUE #359: Theorem names in ssrnat (switching long suffixes to short suffixes)
Should theorems like 
``odd_add : forall m n : nat, odd (m + n) = odd m (+) odd n``
be named ``oddD``?

### PR DESCRIPTION
**Pull request by affeldt-aist**
+ `odd_add` -> `oddD`
  + `odd_sub` -> `oddB`
  + `take_addn` -> `takeD`
  + `rot_addn` -> `rotD`
  + `nseq_addn` -> `nseqD`

##### Motivation for this change

fixes #359

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~- [ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by CohenCyril** [comment]
@affeldt-aist looks like fourcolour needs an overlay

**Comment by pi8027** [comment]
Hello. Shouldn't we use the deprecation facility rather than having overlays? https://github.com/math-comp/math-comp/blob/master/mathcomp/ssreflect/ssreflect.v#L15-L28

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -890,7 +890,7 @@ Lemma all_rev a s : all a (rev s) = all a s.
 Proof. by rewrite !all_count count_rev size_rev. Qed.
 
 Lemma rev_nseq n x : rev (nseq n x) = nseq n x.
-Proof. by elim: n => // n IHn; rewrite -{1}(addn1 n) nseq_addn rev_cat IHn. Qed.
+Proof. by elim: n => // n IHn; rewrite -{1}(addn1 n) nseqD rev_cat IHn. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:893]:
```suggestion
Proof. by elim: n => // n IHn; rewrite -[in LHS]addn1 nseqD rev_cat IHn. Qed.
```

**Comment by affeldt-aist** [comment]
> Hello. Shouldn't we use the deprecation facility rather than having overlays? 

Indeed. Will do.
